US06806230B1
8.3 g (43 mmol) of 5-(1-hydroxy-2-methylpropyl)-4-isopropylpyrimidine was dissolved in 10 ml of pyridine, and under cooling with ice, 9.8 g (86 mmol) of methylsulfonyl chloride was dropwise added. The reaction mixture was reacted at room temperature for 2 hours, and then, 100 ml of ice water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with an aqueous citric acid solution and water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure to obtain 10.6 g (yield: 90%) of 5-(1-methylsulfonyloxy-2-methylpropyl)-4-isopropylpyrimidine.

reactant | 5-(1-hydroxy-2-methylpropyl)-4-isopropylpyrimidine | 43 mmol, 8.3 g | OC(C(C)C)C=1C(=NC=NC1)C(C)C | C11H18N2O
reactant | methylsulfonyl chloride | 86 mmol, 9.8 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(1-methylsulfonyloxy-2-methylpropyl)-4-isopropylpyrimidine | 10.6 g, yield: 90% | CS(=O)(=O)OC(C(C)C)C=1C(=NC=NC1)C(C)C | C12H20N2O3S
